US05246927
Using the procedure described in Example 1 by reaction of 2-tert-butyl-6-isothiocyanato-5-(4-methyl-piperazin-1-yl)benzothiazole with 4-methylpiperazine is obtained 2-tert-butyl-6[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methyl-piperazin-1-yl)benzothiazole, melting at 190°-193°.

reactant | 2-tert-butyl-6-isothiocyanato-5-(4-methyl-piperazin-1-yl)benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCN(CC2)C | C17H22N4S2
reactant | 4-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-tert-butyl-6[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methyl-piperazin-1-yl)benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCN(CC2)C)N2CCN(CC2)C | C22H34N6S2
